US08877934B2
Step H: Ethyl (E)-4,4,5,5-tetrafluoropent-2-enoate
Ethyl 4,4,5,5-tetrafluoro-3-hydroxy-pentanoate (22.9 g, 0.105 mol) was mixed with phosphorus pentoxide (7.5 g, 0.053 mol) and the resulting mixture was stirred at 80° C. for two hours. The product was isolated by vacuum distillation (53 mbar, 92° C.) to yield 15.9 g of a liquid (0.08 mol, 76%) that was used directly in the next step.

reactant | Ethyl 4,4,5,5-tetrafluoro-3-hydroxy-pentanoate | 0.105 mol, 22.9 g | FC(C(CC(=O)OCC)O)(C(F)F)F | C7H10F4O3
reactant | phosphorus pentoxide | 0.053 mol, 7.5 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | Ethyl (E)-4,4,5,5-tetrafluoropent-2-enoate | 0.08 mol, 15.9 g, 76% | FC(/C=C/C(=O)OCC)(C(F)F)F | C7H8F4O2
